US08207146B2
(1,4-dioxa-spiro[4.5]dec-8-ylmethyl)triphenylphosphoniumiodide
5.54 g of 8-iodomethyl-1,4-dioxa-spiro[4.5]decane and 5.15 g of triphenylphosphine are dissolved in 32 ml of acetonitrile and heated at the boil under reflux for 12 hours. The mixture is stirred at room temperature for two days and then concentrated under reduced pressure to a volume of about 15 ml, and 30 ml of diethyl ether are added. With vigorous stirring in an ice-bath, a precipitate begins to form. The precipitate is filtered off with suction and dried under reduced pressure. This gives 3.86 g of (1,4-dioxa-spiro[4.5]dec-8-ylmethyl)triphenylphosphoniumiodide.

reactant | 8-iodomethyl-1,4-dioxa-spiro[4.5]decane | 5.54 g | ICC1CCC2(OCCO2)CC1 | C9H15IO2
reactant | triphenylphosphine | 5.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 32 ml | C(C)#N | C2H3N
product | (1,4-dioxa-spiro[4.5]dec-8-ylmethyl)triphenylphosphoniumiodide | [I-].O1CCOC12CCC(CC2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C27H30O2P.HI/c1-4-10-24(11-5-1)30(25-12-6-2-7-13-25,26-14-8-3-9-15-26)22-23-16-18-27(19-17-23)28-20-21-29-27;/h1-15,23H,16-22H2;1H/q+1;/p-1
